US08541448B2
Compound 30: 2-(N-(4-(6,8-dichloro-2-methyl-1,2,3,4-tetrahydroisoquinolin-4-yl)phenyl)sulfamoylamino)ethylphosphonic acid
Into a 50-mL round-bottom flask purged and maintained with an inert atmosphere of nitrogen, was placed a solution of diethyl 2-(N-(4-(6,8-dichloro-2-methyl-1,2,3,4-tetrahydroisoquinolin-4-yl)phenyl)sulfamoylamino)ethylphosphonate (100 mg, 0.18 mmol, 1.00 equiv) in dichloromethane (5 mL) and bromotrimethylsilane (275 mg, 1.80 mmol, 9.89 equiv). The resulting solution was stirred overnight at 39° C. The resulting mixture was concentrated under vacuum and the residue was dissolved in dichloromethane (5 mL). This was followed by the addition of a solution of sodium hydroxide (14.5 mg, 0.36 mmol, 2.00 equiv) in methanol (0.2 mL) dropwise with stirring. The solids were collected by filtration and dried under reduced pressure. This gave 40 mg (40%) of a sodium salt of the title compound as a white solid. 1H-NMR (300 MHz, d6-DMSO, ppm): δ 9.78 (1H, brs), 7.54 (1H, s), 7.47 (1H, brs), 7.09-7.17 (4H, m), 6.82 (1H, s), 4.31 (1H, brs), 3.88 (2H, brs), 3.13 (1H, brs), 3.04 (2H, brs), 2.90 (1H, brs), 2.58 (3H, s), 1.65-1.77 (2H, m). MS (m/z): 494 [M+H]+.

reactant | diethyl 2-(N-(4-(6,8-dichloro-2-methyl-1,2,3,4-tetrahydroisoquinolin-4-yl)phenyl)sulfamoylamino)ethylphosphonate | 0.18 mmol, 100 mg, 1.00 equiv | ClC=1C=C2C(CN(CC2=C(C1)Cl)C)C1=CC=C(C=C1)NS(=O)(=O)NCCP(OCC)(OCC)=O | C22H30Cl2N3O5PS
reactant | bromotrimethylsilane | 1.80 mmol, 275 mg, 9.89 equiv | Br[Si](C)(C)C | C3H9BrSi
reactant | sodium hydroxide | 0.36 mmol, 14.5 mg, 2.00 equiv | [OH-].[Na+]
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
solvent | methanol | 0.2 mL | CO | CH4O
product | 2-(N-(4-(6,8-dichloro-2-methyl-1,2,3,4-tetrahydroisoquinolin-4-yl)phenyl)sulfamoylamino)ethylphosphonic acid | ClC=1C=C2C(CN(CC2=C(C1)Cl)C)C1=CC=C(C=C1)NS(=O)(=O)NCCP(O)(O)=O | C18H22Cl2N3O5PS
